US07452893B2
Step 8: trans-4-[2-fluoro-2-(2-fluorophenyl)ethoxy]cyclohexanamine
A mixture of 1 g of tert-butyl {trans-4-[2-fluoro-2-(2-fluorophenyl)ethoxy]-cyclohexyl}carbamate an 10 mL of 4N HCl in dioxane was stirred at room temperature for 3 h then concentrated to dryness under reduced pressure. The white crystalline hydrochloride salt could be converted into the free base by partitioning between 25 mL of 3N sodium hydroxide and 3×25 mL portions of chloroform. The combined extracts were dried over magnesium sulfate and concentrated under reduced pressure. Further drying under vacuum gave 0.72 g of product as an oil which crystallized on standing: MS (m+1)=256.4; 1H NMR (400 MHz, CDCl3) 7.45 (m, 1H), 7.3 (m, 1H), 7.17 (m, 1H), 7.04 (m, 1H), 5.85 (dd, JHF=47 Hz, 1H), 3.75 (m, 2H), 3.3 (m, 1H), 2.7 (m, 1H), 2.02 (m, 2H), 1.85 (m, 2H), 1.3 (m, 2H), 1.05 (m, 2H).

reactant | tert-butyl {trans-4-[2-fluoro-2-(2-fluorophenyl)ethoxy]-cyclohexyl}carbamate | 1 g | FC(CO[C@@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O)C1=C(C=CC=C1)F | C19H27F2NO3
reactant | HCl | 4N, 10 mL | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | trans-4-[2-fluoro-2-(2-fluorophenyl)ethoxy]cyclohexanamine | 0.72 g | FC(CO[C@@H]1CC[C@H](CC1)N)C1=C(C=CC=C1)F | C14H19F2NO
